US06734292B1
Glacial acetic acid solution of erythromycin A (12.4 g, 16.9 mmol) was stirred at room temperature for 2 hours, added slowly aqueous sodium hydrogen carbonate and neutralized. The reaction mixture was extracted with chloroform, dehydrated the organic layer with sodium sulfate, filtered off the sodium sulfate and removed the solvent by distillation to obtain crude substance. The crude substance was purified with silica gel chromatography (chloroform:methanol:aqueous ammonia=10:0.5:0.01→10:1:0.05) to obtain EM201 (7.7 g, 63%). Subsequently, potassium carbonate (1.4 g, 10.6 mmol) was added to the methanol solution (100 ml) of EM 201 (7.6 g, 10.6 mmol) and refluxed for 2 hours. After distilled off the solvent, the residue was dissolved in aqueous sodium hydrogen carbonate and extracted with chloroform. The mixture was dehydrated with sodium sulfate, filtered and removed the sodium sulfate, then the obtained crude substance was purified by silica gel chromatography (chloroform:methanol:aqueous ammonia=10:0.5:0.01→10:1:0.05) to obtain EM701 (5.9 g, 78%, white powder).

reactant | erythromycin A | 16.9 mmol, 12.4 g | CC[C@@H]1[C@@]([C@@H]([C@H](C(=O)[C@@H](C[C@@]([C@@H]([C@H]([C@@H]([C@H](C(=O)O1)C)O[C@H]2C[C@@]([C@H]([C@@H](O2)C)O)(C)OC)C)O[C@H]3[C@@H]([C@H](C[C@H](O3)C)N(C)C)O)(C)O)C)C)O)(C)O | C37H67NO13
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | EM201 | 7.7 g, 63% | CC[C@@H]1[C@@]([C@@H]([C@H](C2=C(C[C@@](O2)([C@@H]([C@H]([C@@H]([C@H](C(=O)O1)C)O[C@H]3C[C@@]([C@H]([C@@H](O3)C)O)(C)OC)C)O[C@H]4[C@@H]([C@H](C[C@H](O4)C)N(C)C)O)C)C)C)O)(C)O | C37H65NO12
